US04820722
1-[4-[[4-[2-[3-(Dimethylamino)propyl]-2H- tetrazol-5-yl]phenoxy]methyl]-2-hydroxy-3-propylphenyl]ethanone
5-[4-((4-Acetyl-3-hydroxy-2-propylphenyl)methoxy)phenyl]-2-(3-bromopropyl)-2H-tetrazole (2.8 g, 0.006 mol) was dissolved in acetonitrile and cooled to 10 approximately 0° C. Dimethylamine (anhydrous, excess) was cooled in the reagent bottle before it was opened then added to the cool acetonitrile solution. The solution was maintained at approximately 0° C. with an ice bath while it was stirred (approximately 5 hours). The reaction mixture was then concentrated in vacuo. Water was added and the resultant solution was extracted with ethyl acetate. The ethyl acetate layers were combined, washed with water and dried over sodium sulfate. The dried ethyl acetate layers were concentrated and the resultant residue was chromatographed by HPLC (preparatoryscale, silica gel column, eluted isocratically with a mixture of 9.5 : 0.5 methylene chloride:methanol to which 0.05% of diethylamine had been added to yield 2.3 g, 88.5% yield of the title product: m.p. 89°-91° C.; n.m.r.: (300 MHz, CDCl3) δ: 1.0 (t, 2H); 1.6 (m, 2H); 2.1 (t, 2H); 2.2 (s, 6H); 2.3, (t, 2H); 2.4 (t, 2H); 2.6 (s, 3H); 2.7 (t, 2H); 4.7 (t, 2H); 5.2 (s, 2H); 7.1 (2d, 3H); 7.6 (d, 1H); 8.1 (d, 2H); 12.7 (s, 1H).

reactant | 5-[4-((4-Acetyl-3-hydroxy-2-propylphenyl)methoxy)phenyl]-2-(3-bromopropyl)-2H-tetrazole | 0.006 mol, 2.8 g | C(C)(=O)C1=C(C(=C(C=C1)COC1=CC=C(C=C1)C=1N=NN(N1)CCCBr)CCC)O | C22H25BrN4O3
reactant | Dimethylamine | CNC | C2H7N
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-[4-[[4-[2-[3-(Dimethylamino)propyl]-2H- tetrazol-5-yl]phenoxy]methyl]-2-hydroxy-3-propylphenyl]ethanone | 2.3 g, 88.5% yield | CN(CCCN1N=C(N=N1)C1=CC=C(OCC2=C(C(=C(C=C2)C(C)=O)O)CCC)C=C1)C | C24H31N5O3
